US07399771B2
(4,6-Dimethyl-2-phenyl-pyrimidin-5-yl)-{4′-methyl-4-[(2-methyl-thiazol-4-ylmethyl)-phenyl-amino]-[1,4′]bipiperidinyl-1′-yl}-methanone
It is prepared from (4′-methyl-[1,4′]bipiperidinyl-4-yl)-(2-methyl-thiazol-4-ylmethyl)-phenyl-amine and 4,6-dimethyl-2-phenyl-pyrimidine-5-carboxylic acid using a procedure as described for Example 1 of PCT/EP02/03871. MS/ESI 595 [M+H]+. (4′-Methyl-[1,4′]bipiperidinyl-4-yl)-(2-methyl-thiazol-4-ylmethyl)-phenyl-amine used as a starting material may be prepared using procedures described in example 83 of PCT/EP02/03871. MS/ESI 385 [M+H]+

reactant | (4′-methyl-[1,4′]bipiperidinyl-4-yl)-(2-methyl-thiazol-4-ylmethyl)-phenyl-amine | CC1(CCNCC1)N1CCC(CC1)N(C1=CC=CC=C1)CC=1N=C(SC1)C | C22H32N4S
reactant | 4,6-dimethyl-2-phenyl-pyrimidine-5-carboxylic acid | CC1=NC(=NC(=C1C(=O)O)C)C1=CC=CC=C1 | C13H12N2O2
product | (4,6-Dimethyl-2-phenyl-pyrimidin-5-yl)-{4′-methyl-4-[(2-methyl-thiazol-4-ylmethyl)-phenyl-amino]-[1,4′]bipiperidinyl-1′-yl}-methanone | CC1=NC(=NC(=C1C(=O)N1CCC(CC1)(N1CCC(CC1)N(C1=CC=CC=C1)CC=1N=C(SC1)C)C)C)C1=CC=CC=C1 | C35H42N6OS
